US05231113
Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate
n-Hexyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate-Using n-hexyl 4-hydroxybenzoate, the title compound was synthesized as a colorless oil. PMR (CDCl3): δ 0.92 (3H, m), 1.33 (6H, s), 1.35 (6H, s), 1.42 (6H, m), 1.74 (4H, s), 1.77 (2H, m), 4.34 (2H, t, J~6.7 Hz), 7.30 (2H, d, J~8.8 Hz), 7.46 (1H, d, J~8.3 Hz)), 7.95 (1H, dd, J~8.3 Hz, 1.9 Hz), 8.14 (2H, d, J~8.8 Hz), 8.17 (1H, d, J~1.9 Hz).

reactant | n-Hexyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)OCCCCCC)C=C1)C | C28H36O4
reactant | n-hexyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCCCCCC)C=C1 | C13H18O3
product | Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)OCC)C=C1)C | C24H28O4
